US04178449
7-(α,α,α-Trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile
A mixture of 3.15 g. of 3-dimethylamino-3'-(trifluoromethyl)acrylophenone and 1.40 g. of 3-aminopyrazole-4-carbonitrile in 25 ml. of glacial acetic acid is refluxed for 6 hours. The mixture is evaporated and the residue is treated as described in Example 1, giving the desired product, m.p. 144°-145° C.

reactant | 3-dimethylamino-3'-(trifluoromethyl)acrylophenone | CN(C=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
reactant | 3-aminopyrazole-4-carbonitrile | NC1=NNC=C1C#N | C4H4N4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(α,α,α-Trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | FC(C1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C#N)(F)F | C14H7F3N4
